US07598387B2
Preparation of 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde sodium metabisulphite complex
4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde (20 gms, 84% HPLC purity) was stirred with methanol (200 ml) and cooled to 15° C. A solution of sodium metabisulphite (22 gms, 0.115M) in water (40 ml) was added drop wise to the above solution over a time period of about 15 to 20 minutes, whilst maintaining the temperature below about 20° C. The reaction mixture was then cooled to 10° C. and stirred for about 2 hours. The resulting solid precipitate was then filtered and washed with methanol (25 ml) and water (25 ml). The solid was then dried in a vacuum oven at 40° C. to obtain the title compound (20 gms, 98% HPLC purity).

reactant | 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde | 20 gms | CN(C1=NC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C15H16N2O2
reactant | methanol | 200 ml | CO | CH4O
reactant | sodium metabisulphite | 0.115M, 22 gms | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 40 ml | O | H2O
product | 4-[2-(N-methyl-N-(2-pyridyl)amino)ethoxy]benzaldehyde sodium metabisulphite | 20 gms, 98% | S(=O)(=O)([O-])S(=O)[O-].[Na+].CN(C1=NC=CC=C1)CCOC1=CC=C(C=O)C=C1.[Na+] | InChI=1S/C15H16N2O2.2Na.H2O5S2/c1-17(15-4-2-3-9-16-15)10-11-19-14-7-5-13(12-18)6-8-14;;;1-6(2)7(3,4)5/h2-9,12H,10-11H2,1H3;;;(H,1,2)(H,3,4,5)/q;2*+1;/p-2
